US04130716
1-Triphenylmethyl-3,5-pyrazoledicarboxylic acid, dimethyl ester
To a solution of 1.84 g. (10 mmol) of 3,5-pyrazoledicarboxylic acid dimethyl ester* in 15 ml. of DMF, stirred at 0° under argon, was added 480 mg. (10 mmol) of 50% NaH (suspension in mineral oil). After the evolution of hydrogen had ceased, 2.7 g. (10 mmol) of triphenylmethyl chloride in 20 ml. of DMF was added dropwise. The mixture was allowed to warm to room temperature, stirred 1.5 hours, poured into H2O, and the resulting precipitate filtered. After recrystallization from 2-ethoxyethanol-H2O, there was obtained the end product. The analytical sample was obtained as colorless needles by recrystallization from DMF--H2O; mp 212°-213.5°.

reactant | 3,5-pyrazoledicarboxylic acid dimethyl ester | 10 mmol | COC(=O)C1=NNC(=C1)C(=O)OC | C7H8N2O4
reactant | NaH | 10 mmol | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | triphenylmethyl chloride | 10 mmol | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | H2O | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-Triphenylmethyl-3,5-pyrazoledicarboxylic acid, dimethyl ester | C1(=CC=CC=C1)C(N1N=C(C=C1C(=O)OC)C(=O)OC)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H22N2O4
